US07186715B2
Step 2: 2-bromo-3-fluorophenol
2-Bromo-3-fluoro anisole (10 g, 48.77 mmol) was dissolved in DCM (200 mL) and cooled to about −78° C. To the solution was added BBr3 (11.53 mL, 121.9 mmol) in one portion. The mixture was warmed to r.t. and stirred overnight. The mixture was partitioned between water and DCM (50 mL), and the aqueous layer was back extracted with DCM (200 mL). The combined organics were dried (NaSO4), filtered and concentrated to give about 9.32 g of the product as a dark oil. MS found 188.9 (M−1)

reactant | 2-Bromo-3-fluoro anisole | 48.77 mmol, 10 g | BrC1=C(C=CC=C1F)OC | C7H6BrFO
reactant | BBr3 | 121.9 mmol, 11.53 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-3-fluorophenol | about 9.32 g | BrC1=C(C=CC=C1F)O | C6H4BrFO
